US06867205B2
5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-morpholin-4-yl-pyrimidin-4-ylamine
The title compound, MS: m/e=353.9 (M+), was prepared from morpholine-4-carboxamidine and 2-(2,4-dichloro-benzylidene)-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | morpholine-4-carboxamidine | N1(CCOCC1)C(=N)N | C5H11N3O
reactant | 2-(2,4-dichloro-benzylidene)-malononitrile | ClC1=C(C=C(C#N)C#N)C=CC(=C1)Cl | C10H4Cl2N2
product | 5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-morpholin-4-yl-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=C(C=C(C=C1)Cl)Cl)N1CCOCC1)N | C15H17Cl2N5O
